US07776910B2
To a solution of (S)-3-(4-bromo-2-methoxy-phenyl)-4-hydroxy-butyronitrile (459 mg, 1.699 mmol) in MeOH (12.1 mL) at 0° C. was added (BOC)2O (736.3 mg, 3.398 mmol), NiCl2.6H2O (40.75 mg, 0.17 mmol), and (in portions) sodium borohydride (450.3 mg, 11.9 mmol). The mixture was stirred at room temperature for 18 hours. Diethylamine (0.183 mL, 1.699 mmol) was then added and the mixture was stirred for 30 minutes. Solvent was evaporated under reduced pressure and a solution of aqueous NaHCO3 (10%) was added. The mixture was extracted with EtOAc, and the combined organic extracts were washed with brine, dried over Na2SO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 7/3) to give 405 mg (64% yield) of [(S)-3-(4-bromo-2-methoxy-phenyl)-4-hydroxy-butyl]-carbamic acid tert-butyl ester.

reactant | (S)-3-(4-bromo-2-methoxy-phenyl)-4-hydroxy-butyronitrile | 1.699 mmol, 459 mg | BrC1=CC(=C(C=C1)[C@H](CC#N)CO)OC | C11H12BrNO2
reactant | (BOC)2O | 3.398 mmol, 736.3 mg | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | sodium borohydride | 11.9 mmol, 450.3 mg | [BH4-].[Na+]
reactant | Diethylamine | 1.699 mmol, 0.183 mL | C(C)NCC | C4H11N
solvent | MeOH | 12.1 mL | CO | CH4O
product | [(S)-3-(4-bromo-2-methoxy-phenyl)-4-hydroxy-butyl]-carbamic acid tert-butyl ester | 405 mg, 64% yield | C(C)(C)(C)OC(NCC[C@H](CO)C1=C(C=C(C=C1)Br)OC)=O | C16H24BrNO4
